US08865863B2
Benzyl 3-isocyanopropylcarbamate (13)
To a solution of benzyl [3-(formylamino)propyl]-carbamate (15.8 g, 67.0 mmol) in 300 mL of dry CH2Cl2 was added diisopropylamine (29.6 mL, 211 mmol). The solution was cooled down to 0° C. using an ice bath. Then, POCl3 (7.36 mL, 80.0 mmol) was slowly added dropwise. After warming to room temperature, the solution was stirred for a further 3 h. Addition of 20 g of Na2CO3, dissolved in 100 mL of distilled H2O, was followed by further stirring at RT for 30 min. The reaction mixture was subsequently diluted with 100 mL of CH2Cl2 and also 100 mL of distilled H2O and the aqueous phase was extracted 3× with 150 mL of CH2Cl2 each time. The combined organic phases were dried over Na2SO4 and concentrated in a rotary evaporator. Purification by column chromatography (MeOH/CH2Cl2, 1/9, v/v) gave a dark brown liquid (13.0 g, 89%).

reactant | benzyl [3-(formylamino)propyl]-carbamate | 67.0 mmol, 15.8 g | C(=O)NCCCNC(OCC1=CC=CC=C1)=O | C12H16N2O3
reactant | diisopropylamine | 211 mmol, 29.6 mL | C(C)(C)NC(C)C | C6H15N
reactant | POCl3 | 80.0 mmol, 7.36 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | 20 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 100 mL | O | H2O
product | Benzyl 3-isocyanopropylcarbamate | 13.0 g, 89% | [N+](#[C-])CCCNC(OCC1=CC=CC=C1)=O | C12H14N2O2
